US08247421B2
Step 1: (R)-tert-butyl 1-(4-hydroxycyclohexyl)ethylcarbamate
(R)-tert-butyl 1-(4-hydroxyphenyl)ethylcarbamate (described in the literature: WO 2007035154 (A1)) (100 mg, 0.4214 mmol) was dissolved in methanol (5 mL). A methanolic (5 mL) solution of rhodium on alumina (10 Wt %, 10 mg) was added. The reaction mixture was place under a hydrogen atmosphere and stir at room temperature for 18 hours. The rhodium catalyst was filtered off and the mother liquors were concentrated in vacuo. The residue was purified on silica gel by flash column chromatography to afford the title compound (62 mg, 61% yield).

reactant | (R)-tert-butyl 1-(4-hydroxyphenyl)ethylcarbamate | OC1=CC=C(C=C1)[C@@H](C)NC(OC(C)(C)C)=O | C13H19NO3
solvent | methanol | 5 mL | CO | CH4O
catalyst | rhodium on alumina | 10 mg | [Rh] | Rh
product | (R)-tert-butyl 1-(4-hydroxycyclohexyl)ethylcarbamate | 62 mg, 61% yield | OC1CCC(CC1)[C@@H](C)NC(OC(C)(C)C)=O | C13H25NO3
